US07709481B2
4.5 g 4-[5-(3-Chloro-4-cyano-phenoxymethyl)-4-methyl-thiazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester (derived from 4-(5-Chloromethyl-4-methyl-thiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and commercially available 2-Chloro-4-hydroxy-benzonitrile according to the method described in Example 1) was dissolved in 100 ml dichloromethane. 20 ml trifluoroacetic acid were added and the reaction mixture stirred at room temperature for one hour. The solvent was removed in vacuo and the residue was dissolved in 200 ml ethyl acetate, washed three times with saturated NaHCO3 solution and then dried over MgSO4. The solvent was removed in Vacuo to obtain 3.5 g 2-Chloro-4-(4-methyl-2-piperidin-4-yl-thiazol-5-ylmethoxy)-benzonitrile as colorless solid.

reactant | 4-[5-(3-Chloro-4-cyano-phenoxymethyl)-4-methyl-thiazol-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | 4.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC(=C(N1)C)COC1=CC(=C(C=C1)C#N)Cl | C22H26ClN3O3S
reactant | 4-(5-Chloromethyl-4-methyl-thiazol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC(=C(N1)C)CCl | C15H23ClN2O2S
reactant | 2-Chloro-4-hydroxy-benzonitrile | ClC1=C(C#N)C=CC(=C1)O | C7H4ClNO
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-Chloro-4-(4-methyl-2-piperidin-4-yl-thiazol-5-ylmethoxy)-benzonitrile | 3.5 g | ClC1=C(C#N)C=CC(=C1)OCC1=C(N=C(S1)C1CCNCC1)C | C17H18ClN3OS
